US04657893
A solution of 960 mg of 6-methyl anthranilic acid in 30 ml of dry toluene containing 1.77 ml of dry triethylamine, which had been stirred for 30 minutes, was added to a solution of 2.1 gm of 1-benzotriazole carboxylic acid chloride in 30 ml toluene over a period of 30 minutes, and stirred for 12 hours. The resulting precipitate was filtered. The filtrate was reduced to one-half of its initial volume, and the resulting solids isolated by filtration. The combined residues were washed with water, dried under high vacuum and recrystallized from chloroform, giving 400 mg of 2-(1-benzotriazolyl)-5-methyl-4H-3,1-benzoxazin-4-one, m.p. 214°-215° C. (decomp.).

reactant | 6-methyl anthranilic acid | 960 mg | CC=1C=CC=C(C1C(=O)O)N | C8H9NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 1-benzotriazole carboxylic acid chloride | 2.1 gm | N1(N=NC2=C1C=CC=C2)C(=O)Cl | C7H4ClN3O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1-benzotriazolyl)-5-methyl-4H-3,1-benzoxazin-4-one | 400 mg | N1(N=NC2=C1C=CC=C2)C2=NC1=C(C(O2)=O)C(=CC=C1)C | C15H10N4O2
